US07015218B1
N-[3-Cyano-4-(4-morpholinopiperidin-1-yl)phenyl]-1-phenyl-5-methylpyrazole-4-carboxamide
By the reaction and treatment in the same manner as in Example 64 using 1-phenyl-5-methylpyrazole-4-carboxylic acid (0.6 g) and 5-amino-2-(4-morpholinopiperidin-1-yl)benzonitrile (0.6 g), the title compound (0.2 g) was obtained, melting point: 223° C.

reactant | 1-phenyl-5-methylpyrazole-4-carboxylic acid | 0.6 g | C1(=CC=CC=C1)N1N=CC(=C1C)C(=O)O | C11H10N2O2
reactant | 5-amino-2-(4-morpholinopiperidin-1-yl)benzonitrile | 0.6 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCOCC1 | C16H22N4O
product | N-[3-Cyano-4-(4-morpholinopiperidin-1-yl)phenyl]-1-phenyl-5-methylpyrazole-4-carboxamide | 0.2 g | C(#N)C=1C=C(C=CC1N1CCC(CC1)N1CCOCC1)NC(=O)C=1C=NN(C1C)C1=CC=CC=C1 | C27H30N6O2
